US05744426
2-Chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoyl chloride
3 drops of dimethylformamide and then 11.1 g (87 mmol) of oxalyl chloride were added dropwise to a solution of 12.5 g (29 mmol) of 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoic acid in 300 ml of toluene. The reaction mixture was stirred at reflux temperature for 5 hours and then concentrated. Yield: quantitative.

reactant | oxalyl chloride | 87 mmol, 11.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoic acid | 29 mmol, 12.5 g | ClC(C(=O)O)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C14H8Cl4F2N2O3
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoyl chloride | Yield: quantitative | ClC(C(=O)Cl)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C14H7Cl5F2N2O2
